US03948939
9-Benzoyl-6-methoxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid (alternative preparation)
A solution of 75 g. of benzaldehyde 1-benzoyl-1-(4-methoxyphenyl)hydrazone and 42.6 g. of cyclohexanone-4-carboxylic acid in one liter of acetic acid saturated with hydrogen chloride was heated under reflux for three hours during which time hydrogen chloride was continually passed through the solution. The solution was poured into four liters of ice-water and the resulting solid was collected by filtration to give 47.4 g. of the title compound; m.p. 218°-220°C. (methyl alcohol).

reactant | benzaldehyde 1-benzoyl-1-(4-methoxyphenyl)hydrazone | C(C1=CC=CC=C1)(=O)N(N=CC1=CC=CC=C1)C1=CC=C(C=C1)OC | C21H18N2O2
reactant | cyclohexanone-4-carboxylic acid | C1CC(=O)CCC1C(=O)O | C7H10O3
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | one liter | C(C)(=O)O | C2H4O2
product | 9-Benzoyl-6-methoxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=C(C=C2C=2CC(CCC12)C(=O)O)OC | C21H19NO4
